US06825312B2
Preparation of 3,5-bis-(3,5-di-tert.-butylphenyloxy)-4′-hydroxybenzo-phenone
2.80 g (4.5 mmoles) of 3,5-bis-(3,5-di-tert.-butylphenyloxy)4′-methoxybenzo-phenone are dissolved under argon in 100 ml of hydrobromic acid solution (33% in acetic acid). 0.23 g (0.5 mmole) of: hexadecyltributylphosphonium bromide is added thereto. The solution is stirred for 3 hours at 50° C. The course of the reaction is followed by thin layer chromatography. An additional 100 ml of hydrobromic acid (33% in glacial acetic acid) and 20 ml of aqueous hydrobromic acid (48%) are added to the reaction solution. The solution is stirred for a further 18 hours under reflux. After cooling the solution, the reaction mixture is poured onto ice and extracted several times with diethyl ether. The combined organic phases are washed with saturated NaCl solution. The product is dried over magnesium sulfate and the solvent is removed in vacuo. The crude product is chromatographed on silica gel (silica gel 60, 0.040-0.063 mm, Merck) using a mixture of n-hexane/ethyl acetate (9:1). After removing the solvent and drying the residue in a high vacuum, 2.47 g (90%) of a white solid are obtained.

reactant | 3,5-bis-(3,5-di-tert.-butylphenyloxy)4′-methoxybenzo-phenone | 4.5 mmoles, 2.80 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)OC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=C(C1)OC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C42H52O4
solvent | hydrobromic acid | 100 ml | Br | BrH
catalyst | hexadecyltributylphosphonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | hydrobromic acid | 20 ml | Br | BrH
solvent | hydrobromic acid | 100 ml | Br | BrH
product | 3,5-bis-(3,5-di-tert.-butylphenyloxy)-4′-hydroxybenzo-phenone | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)OC=1C=C(C(=O)C2=CC=C(C=C2)O)C=C(C1)OC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C41H50O4
